US04692442
2-[(3S,4R)-4-(2-p-nitrobenzyloxycarbonylaminoethylthiothiocarbonylthio)-3-methoxy-2-oxoazetidin-1-yl]-2-triphenylphosphoranylideneacetic acid p-nitrobenzyl ester
Analogously to Example 24, 0.12 ml of thionyl chloride and 0.23 ml of triethylamine in 0.23 ml of absolute tetrahydrofuran are added to a solution of 640 mg of 2-[(3S,4R)-4-(2-p-nitrobenzyloxycarbonylaminoethylthiothiocarbonylthio)-3-methoxy-2-oxoazetidin-1-yl]-2-hydroxyacetic acid p-nitrobenzyl ester in 4.5 ml of absolute tetrahydrofuran After reacting and working up, 0.54 g of triphenylphosphine is added to the crude 2-[(3S,4R)-4-(2-p-nitrobenzyloxycarbonylaminoethylthiothiocarbonylthio)-3-methoxy-2-oxoazetidin-1-yl]-2-chloroacetic acid p-nitrobenzyl ester, obtained as intermediate, in 1.15 ml of absolute tetrahydrofuran. After working up and chromatography over silica gel, the title compound is obtained.

reactant | thionyl chloride | 0.12 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2-[(3S,4R)-4-(2-p-nitrobenzyloxycarbonylaminoethylthiothiocarbonylthio)-3-methoxy-2-oxoazetidin-1-yl]-2-hydroxyacetic acid p-nitrobenzyl ester | 640 mg | [N+](=O)([O-])C1=CC=C(COC(C(O)N2C([C@@H]([C@H]2SC(=S)SCCNC(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])OC)=O)=O)C=C1 | C24H24N4O11S3
reactant | triphenylphosphine | 0.54 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-[(3S,4R)-4-(2-p-nitrobenzyloxycarbonylaminoethylthiothiocarbonylthio)-3-methoxy-2-oxoazetidin-1-yl]-2-chloroacetic acid p-nitrobenzyl ester | [N+](=O)([O-])C1=CC=C(COC(C(Cl)N2C([C@@H]([C@H]2SC(=S)SCCNC(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])OC)=O)=O)C=C1 | C24H23ClN4O10S3
solvent | tetrahydrofuran | 0.23 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4.5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1.15 ml | O1CCCC1 | C4H8O
solvent | triethylamine | 0.23 ml | C(C)N(CC)CC | C6H15N
product | 2-[(3S,4R)-4-(2-p-nitrobenzyloxycarbonylaminoethylthiothiocarbonylthio)-3-methoxy-2-oxoazetidin-1-yl]-2-triphenylphosphoranylideneacetic acid p-nitrobenzyl ester | [N+](=O)([O-])C1=CC=C(COC(C(=P(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)N2C([C@@H]([C@H]2SC(=S)SCCNC(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])OC)=O)=O)C=C1 | C42H37N4O10PS3
